US09227984B2
2-Amino-4-hydroxy-4-(trifluoromethyl)-4,5-dihydrothiophene-3-carboxylic acid methyl ester
Aqueous NaOH solution (1M, 20 mL) was added slowly to a solution of sodium hydrogensulphide hydrate (4.1 g, 73 mmol) in water (16 mL) at 0° C. The reaction mixture was degassed and flushed with nitrogen before the addition of 1-bromo-3,3,3-trifluoroacetone (10 g, 52 mmol). After stirring at 0° C. for 50 minutes, methyl cyanoacetate (3.8 mL, 54 mmol) was added, followed by triethylamine (7.6 mL, 54 mmol), and the reaction mixture was allowed to warm to room temperature. The reaction mixture was then diluted with EtOAc and separated. The aqueous layer was washed with EtOAc and the combined organic layers were washed with brine, dried (MgSO4) and concentrated in vacuo to afford a brown solid. Recrystallisation from EtOAc/hexane gave the title compound (4.1 g) as a brown solid. LCMS (pH 10) RT 1.08 minutes; MS (m/z) 245 [M+H]+.

reactant | NaOH | 1M, 20 mL | [OH-].[Na+]
reactant | sodium hydrogensulphide hydrate | 73 mmol, 4.1 g | O.S.[Na]
reactant | 1-bromo-3,3,3-trifluoroacetone | 52 mmol, 10 g | BrCC(=O)C(F)(F)F | C3H2BrF3O
reactant | methyl cyanoacetate | 54 mmol, 3.8 mL | C(#N)CC(=O)OC | C4H5NO2
reactant | triethylamine | 54 mmol, 7.6 mL | C(C)N(CC)CC | C6H15N
solvent | water | 16 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Amino-4-hydroxy-4-(trifluoromethyl)-4,5-dihydrothiophene-3-carboxylic acid methyl ester | 4.1 g | COC(=O)C1=C(SCC1(C(F)(F)F)O)N | C7H8F3NO3S
